US07365085B2
c) (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(3-piperazin-1-yl-phenoxy)-propyl]-amine hydrochloride salt
A solution of 4-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (475 mg, 0.67 mmol) in a 1:1 mixture of 3M HCl (aq.) and methanol (30 mL total) was stirred at room temperature for 18 hours. The mixture was concentrated in vacuo, and the crude material was dissolved in EtOAc. The EtOAc solution was washed with saturated aqueous sodium bicarbonate solution (3×) and brine (1×), dried over sodium sulfate, and filtered. The EtOAc extracts were concentrated and the crude piperazine was treated with 1 M HCl (Et2O) to afford the title compound as a solid, 415 mg (100%). MS(ES) m/e 608.4 (M+).

reactant | 4-(3-{3-[(2-chloro-3-trifluoromethyl-benzyl)-diphenylethyl-amino]-propoxy}-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.67 mmol, 475 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)OCCCN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl | C40H45ClF3N3O3
reactant | HCl | 3M | Cl | ClH
solvent | methanol | 30 mL | CO | CH4O
product | (2-Chloro-3-trifluoromethyl-benzyl)-(2,2-diphenyl-ethyl)-[3-(3-piperazin-1-yl-phenoxy)-propyl]-amine hydrochloride salt | Cl.ClC1=C(CN(CCCOC2=CC(=CC=C2)N2CCNCC2)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C35H37ClF3N3O.ClH/c36-34-29(14-7-17-33(34)35(37,38)39)25-41(26-32(27-10-3-1-4-11-27)28-12-5-2-6-13-28)20-9-23-43-31-16-8-15-30(24-31)42-21-18-40-19-22-42;/h1-8,10-17,24,32,40H,9,18-23,25-26H2;1H
